US08048909B2
N-Methyl-1-{1-[(2-methylphenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}methanamine hydrochloride
1-[(2-Methylphenyl)sulfonyl]-5-phenyl-1H-pyrrole-3-carbaldehyde (390 mg) was dissolved in methanol (10 mL), 40% methylamine methanol solution (280 mg) was added at room temperature and the mixture was stirred for 15 min. To the reaction mixture was added sodium borohydride (70 mg) at room temperature and the mixture was stirred for 10 min. Thereto was added 1 mol/l hydrochloric acid (10 mL), and the mixture was stirred for 5 min. The mixture was alkalized with a saturated aqueous sodium hydrogen carbonate and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent: hexane-ethyl acetate=50:50→0:100), and the obtained oil was dissolved in ethyl acetate (5 mL). 4 mol/l Hydrochloric acid-ethyl acetate (1 mL) was added and the mixture was concentrated under reduced pressure. The residue was crystallized from ethyl acetate to give the title compound as colorless crystals (yield 342 mg, 76%).

reactant | 1-[(2-Methylphenyl)sulfonyl]-5-phenyl-1H-pyrrole-3-carbaldehyde | 390 mg | CC1=C(C=CC=C1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)C=O | C18H15NO3S
reactant | methylamine methanol | 280 mg | CO.CN
reactant | sodium borohydride | 70 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 1 mol/l, 10 mL | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | N-Methyl-1-{1-[(2-methylphenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}methanamine hydrochloride | yield 342 mg, 76% | Cl.CNCC1=CN(C(=C1)C1=CC=CC=C1)S(=O)(=O)C1=C(C=CC=C1)C | InChI=1S/C19H20N2O2S.ClH/c1-15-8-6-7-11-19(15)24(22,23)21-14-16(13-20-2)12-18(21)17-9-4-3-5-10-17;/h3-12,14,20H,13H2,1-2H3;1H
